US07449456B2
A 6 ml portion of NMP solution containing 303 mg of 4-cyclohexylamino-2-(methylsulfonyl)pyrimidine-5-carboxamide was mixed with 1.05 ml of 1 M n-tetrabutylammonium fluoride/THF solution, followed by stirring at 90° C. for 1 hour. Next, this was mixed with 200 mg of 4-morpholinoaniline and 2.77 ml of 4 M hydrogen chloride/1,4-dioxane solution, followed by stirring at 90° C. for 3 hours. The reaction mixture was cooled down to room temperature, diluted with water, mixed with saturated sodium bicarbonate aqueous solution and then extracted with ethyl acetate-THF mixed solution. The organic layer was washed with saturated brine, and then the solvent was evaporated and the resulting residue was purified by a silica gel column chromatography (chloroform:methanol) to obtain 54 mg of 4-cyclohexylamino-2-[(4-morpholinophenyl)amino]pyrimidine-5-carboxamide as a pale brown solid.

reactant | 4-cyclohexylamino-2-(methylsulfonyl)pyrimidine-5-carboxamide | 303 mg | C1(CCCCC1)NC1=NC(=NC=C1C(=O)N)S(=O)(=O)C | C12H18N4O3S
reactant | 4-morpholinoaniline | 200 mg | O1CCN(CC1)C1=CC=C(N)C=C1 | C10H14N2O
reactant | hydrogen chloride 1,4-dioxane | 4 M, 2.77 ml | Cl.O1CCOCC1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 4-cyclohexylamino-2-[(4-morpholinophenyl)amino]pyrimidine-5-carboxamide | 54 mg | C1(CCCCC1)NC1=NC(=NC=C1C(=O)N)NC1=CC=C(C=C1)N1CCOCC1 | C21H28N6O2
